US09427475B2
Step E: 4-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)butanal
To a solution of 4-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)butan-1-ol (1.73 g, 3.53 mmol) in DCM (50 mL) was added Dess-Martin reagent (2.24 g, 5.29 mmol) and the resulting mixture stirred at room temperature for 3 hours. Mixture washed with sat. NaHCO3 (100 mL); dried over Na2SO4, filtered and evaporated. The residue was purified by silica gel column chromatography (Teledyne Isco: 80 g) eluent: gradient 0-80% EtOAc in Hexanes to give the title compound (1.24 g, 72%). 1H NMR (CDCl3) δ 9.77 (1H, s), 7.40-7.28 (15H, m), 4.80 (1H, d, J=12.0 Hz), 4.78 (1H, J=12.0 Hz), 4.71 (1H, d, J=12.0 Hz), 4.66 (2H, m), 4.54 (1H, d, J=11.8 Hz), 3.98 (1H, m), 3.92 (1H, m), 3.83-3.76 (3H, m), 2.43 (2H, m), 1.80-1.63 (2H, m), 1.62-1.48 (2H, m), 1.30 (3H, d, J=6.6 Hz).

reactant | 4-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)butan-1-ol | 3.53 mmol, 1.73 g | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)CCCCO | C31H38O5
reactant | Dess-Martin reagent | 5.29 mmol, 2.24 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)butanal | 1.24 g, 72% | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)CCCC=O | C31H36O5
